US07129238B2
(RS)-Methoxy-(3-phenoxy-phenyl)-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(3-phenoxy-phenyl)-acetamide. Light yellow oil. MS 373.3 ([M+H]+)

reactant | (RS)-Methoxy-(3-phenoxy-phenyl)-acetic acid | COC(C(=O)O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(3-phenoxy-phenyl)-acetamide | C(#N)C1=CC=C(CNC(C(C2=CC(=CC=C2)OC2=CC=CC=C2)OC)=O)C=C1 | C23H20N2O3
